US08236823B2
1-Benzyl-4-iodo-1H-pyrazole (1.35 g, 4.77 mmol), 2-chloropyridin-3-ylboronic acid (1.50 g, 9.53 mmol), sodium bicarbonate (1.20 g, 14.3 mmol) and Pd(PPh3)4 (276 mg, 0.239 mmol) were combined in an argon-purged sealed tube. Dimethoxyethane (8 mL) and water (5 mL) were added and the mixture was heated to 85° C. for 16 hours. The reaction was cooled to rt, diluted with water and extracted into EtOAc. The separated organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. This residue was purified by silica gel chromatography (50-75% EtOAc/hexanes) to yield 3-(1-benzyl-1H-pyrazol-4-yl)-2-chloropyridine as a light yellow oil after concentration. MS m/z=270 [M+1]+. Calc'd for C15H12FN3: 269.74.

reactant | 1-Benzyl-4-iodo-1H-pyrazole | 4.77 mmol, 1.35 g | C(C1=CC=CC=C1)N1N=CC(=C1)I | C10H9IN2
reactant | 2-chloropyridin-3-ylboronic acid | 9.53 mmol, 1.50 g | ClC1=NC=CC=C1B(O)O | C5H5BClNO2
reactant | sodium bicarbonate | 14.3 mmol, 1.20 g | C([O-])(O)=O.[Na+]
catalyst | Pd(PPh3)4 | 0.239 mmol, 276 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-benzyl-1H-pyrazol-4-yl)-2-chloropyridine | C(C1=CC=CC=C1)N1N=CC(=C1)C=1C(=NC=CC1)Cl | C15H12ClN3
